US07423159B2
A mixture of 4-fluoroaniline (11.1 g), ethyl formate (25.0 g) and ethanol (150 ml) was stirred at 65° C. for 2 hrs. Toluenesulfonylmethyl isocyanide (23.4 g) was added to the reaction mixture and the mixture was stirred for 2 hrs. with heating under reflux. The reaction mixture was concentrated and poured into water. The precipitated solids were collected by filtration, washed with water and dried to give ethyl 1-(4-fluorophenyl)-1H-imidazole-5-carboxylate (19.8 g, 85%). Recrystallization thereof from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 114-115° C.

reactant | 4-fluoroaniline | 11.1 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl formate | 25.0 g | C(=O)OCC | C3H6O2
reactant | Toluenesulfonylmethyl isocyanide | 23.4 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 1-(4-fluorophenyl)-1H-imidazole-5-carboxylate | 19.8 g, 85% | FC1=CC=C(C=C1)N1C=NC=C1C(=O)OCC | C12H11FN2O2
